US07514567B2
(R)-3′-[5-(4-Pyridyl)thiophen-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Example 1 from (R)-3′-(5-bromo-thiophen-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and pyridine-4-boronic acid. The title compound (34 mg) was obtained as a pale-yellow solid, m/z 342 (MH+).

reactant | (R)-3′-(5-bromo-thiophen-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | BrC1=CC=C(S1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C13H15BrN2O2S
reactant | pyridine-4-boronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | (R)-3′-[5-(4-Pyridyl)thiophen-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 34 mg | N1=CC=C(C=C1)C1=CC=C(S1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C18H19N3O2S
